US20010053779A1
A mixture comprising N-(3,4-diaminophenyl)guanidine hydrochloride (9.9 g, 49 mmol), ethoxycarbonimidoylacetic acid ethyl ester hydrochloride (12.4 g, 59 mmol) and acetic acid (20 mL) was heated in an oil bath at 110° C. and stirred for 1.5 hours, cooled to room temperature and concentrated in vacuo. The residue was dissolved in ethanol (15 mL) and then ethyl acetate (10 mL) was added to the solution to give a precipitate in suspension. The suspension was filtered and an excess of ethyl ether was added to the filtrate to give a second precipitate. The precipitate was collected by filtration, washed with additional ethyl ether and dried in vacuo to provide ethyl 5-guanidino-1H-benzoimidazol-2-ylacetate hydrochloride (14.1 g, 94% yield) as an off white solid; 1H-NMR (300 MHz, DMSO-d6): 10.2 (s), 7.8 (d), 7.7 (m), 7.3 (d), 4.5 (s), 4.2 (q), 1.2 (t).

reactant | N-(3,4-diaminophenyl)guanidine hydrochloride | 49 mmol, 9.9 g | Cl.NC=1C=C(C=CC1N)NC(=N)N
reactant | ethoxycarbonimidoylacetic acid ethyl ester hydrochloride | 59 mmol, 12.4 g | Cl.C(C)OC(CC(=N)OCC)=O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | ethyl 5-guanidino-1H-benzoimidazol-2-ylacetate hydrochloride | 14.1 g, 94% yield | Cl.N(C(=N)N)C1=CC2=C(NC(=N2)CC(=O)OCC)C=C1 | InChI=1S/C12H15N5O2.ClH/c1-2-19-11(18)6-10-16-8-4-3-7(15-12(13)14)5-9(8)17-10;/h3-5H,2,6H2,1H3,(H,16,17)(H4,13,14,15);1H
